US08865736B2
4-Chloromethyl-2-(4-methoxy-phenyl)-oxazole (General Method)
To a solution of 1,3 dichloroacetone (0.504 g, 3.90 mmol) in toluene (5 ml) was added 4-methoxy benzamide (0.30 g, 1.90 mmol). The reaction mixture was heated at 120° C. for 1 h. After the completion of the reaction mixture (TLC monitoring), the reaction mixture was evaporated to dryness under reduced pressure and the residue was purified over silica gel (230-400 M, 15% EtOAc-Hexane) to get the desired product (0.37 g, 83%).

reactant | 1,3 dichloroacetone | 3.90 mmol, 0.504 g | ClCC(=O)CCl | C3H4Cl2O
reactant | 4-methoxy benzamide | 1.90 mmol, 0.30 g | COC1=CC=C(C(=O)N)C=C1 | C8H9NO2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Chloromethyl-2-(4-methoxy-phenyl)-oxazole | 0.37 g, 83% | ClCC=1N=C(OC1)C1=CC=C(C=C1)OC | C11H10ClNO2
